US08389509B2
A mixture of 4-(1,3-dioxolan-2-yl)benzonitrile (16.4 g, 93.6 mmol), hydroxylamine hydrochloride (9.76 g, 140 mmol) and sodium bicarbonate (15.7 g, 187 mmol) in MeOH (100 mL) was heated to reflux for 4 hr. After cooling to RT, the reaction mixture was filtered and the filtrate was concentrated to provide solids that were collected by filtration and washed with cold methanol to provide (Z)-4-(1,3-dioxolan-2-yl)-N′-hydroxybenzimidamide (16 g, 76.8 mmol). The compound had an HPLC retention time=0.38 min. —CHROMOLITH® SpeedROD 4.6×30 mm. flow=5 mL/min (2 min. gradient); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=209.2

reactant | 4-(1,3-dioxolan-2-yl)benzonitrile | 93.6 mmol, 16.4 g | O1C(OCC1)C1=CC=C(C#N)C=C1 | C10H9NO2
reactant | hydroxylamine hydrochloride | 140 mmol, 9.76 g | Cl.NO
reactant | sodium bicarbonate | 187 mmol, 15.7 g | C([O-])(O)=O.[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (Z)-4-(1,3-dioxolan-2-yl)-N′-hydroxybenzimidamide | 76.8 mmol, 16 g | O1C(OCC1)C1=CC=C(/C(/N)=N/O)C=C1 | C10H12N2O3
